US07384934B2
Using the method of Example 322, using (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester (300 mg, 0.72 mmol), formaldehyde (37%, w/w, aq) (72.9 mg, 0.90 mmol) and sodium triacetoxyborohydride (228.9 mg, 1.08 mmol) gives 280 mg (yield 90%) of (5)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester: mass spectrum (electrospray) (m/e): 430.0 (M+1), 428.1 (M−1); 1H NMR (400 MHz, DMSO-d6): 8.50 (s, 1H), 6.91-6.80 (m, 3H), 6.69-6.67 (m, 1H), 4.30 (q, 2H, J=6.8 Hz), 3.83-3.81 (m, 2H), 3.32-3.30 (m, 2H), 3.13 (s, 3H), 3.12-3.06 (m, 1H), 2.81-2.70 (m, 2H), 2.22-2.13 (m, 5H), 1.83-1.75 (m, 1H), 1.53-1.46 (m,1H), 1.27 (t, 3H, J=7.2 Hz). The dihydrochloride is form by adding 5 eq of acetyl chloride (256.2 mg, 3.26 mmol) to the free base (280 mg, 0.65 mmol) in ethanol. Collect the precipitates via vacuum filtration to afford 300 mg of yellow solid of the title compound: mass spectrum (electrospray) (m/e): C21H27N5O3S.2HCl, Calc. Mass (M+1): 430.1913,

reactant | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester | 0.72 mmol, 300 mg | C(C)OC(=O)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCOC | C20H25N5O3S
reactant | formaldehyde | 0.90 mmol, 72.9 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.08 mmol, 228.9 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | (5)-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester | 280 mg, yield 90% | C(C)OC(=O)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCOC | C21H27N5O3S
